US05753664
3,5-Dimethyl-2-[4-[4-(2-piperidinoethoxy)benzoyl]-benzylthio]thieno[2,3-d]pyrimidin-4(3H)-one hydrochloride
A solution of 3,5-dimethyl-2-[4-(4-hydroxybenzoyl)benzylthio]thieno[2,3-d]pyrimidin-4(3H)-one (255 mg), 1-(2-chloroethyl)piperidine hydrochloride (122 mg) and potassium carbonate (250 mg) in DMF (8 ml) was stirred at 60° C. for 15 hours. This reaction mixture was concentrated, the residue was dissolved in ethyl acetate, and the solution was washed with water and dried. Then, HCl/ethyl acetate was added and the precipitated hydrochloride was collected by filtration and dried to provide the title compound as colorless solid (268 mg).

reactant | 3,5-dimethyl-2-[4-(4-hydroxybenzoyl)benzylthio]thieno[2,3-d]pyrimidin-4(3H)-one | 255 mg | CN1C(=NC2=C(C1=O)C(=CS2)C)SCC2=CC=C(C=C2)C(C2=CC=C(C=C2)O)=O | C22H18N2O3S2
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 122 mg | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(2-piperidinoethoxy)benzoyl]-benzylthio]thieno[2,3-d]pyrimidin-4(3H)-one hydrochloride | 268 mg | Cl.CN1C(=NC2=C(C1=O)C(=CS2)C)SCC2=CC=C(C=C2)C(C2=CC=C(C=C2)OCCN2CCCCC2)=O | InChI=1S/C29H31N3O3S2.ClH/c1-20-18-36-27-25(20)28(34)31(2)29(30-27)37-19-21-6-8-22(9-7-21)26(33)23-10-12-24(13-11-23)35-17-16-32-14-4-3-5-15-32;/h6-13,18H,3-5,14-17,19H2,1-2H3;1H
